US08563539B2
A 2-dram round-bottomed vial was charged with (Z)-3-((tert-butoxycarbonyl)amino)-3-(1-(4-((2,4-dioxothiazolidin-5-ylidene)methyl)pyrimidin-2-yl)piperidin-4-yl)propanoic acid, prepared using the general displacement procedure, (25 mg, 0.052 mmol), DMF (1 mL), DIPEA (34.9 μL, 0.209 mmol, 4 equiv.), and (3-(trifluoromethoxy)phenyl)methanamine (7.85 μL, 0.052 mmol, 1 equiv.). The reaction mixture was shaken for 20 minutes then HBTU (29.8 mg, 0.079 mmol, 1.5 equiv.) was added and the reaction mixture was shaken at RT for 3 h. The solvent was removed under reduced pressure (Genevac HT-4) and the resulting solid was washed with water (2×1 mL) and dried under high vacuum to provide 20 mg of (Z)-tert-butyl (1-(1-(4-((2,4-dioxothiazolidin-5-ylidene)methyl)pyrimidin-2-yl)piperidin-4-yl)-3-oxo-3-((3-(trifluoromethoxy)benzyl)amino)propyl)carbamate (20 mg, 34.1 mg theoretical, 58.7%).

reactant | (Z)-3-((tert-butoxycarbonyl)amino)-3-(1-(4-((2,4-dioxothiazolidin-5-ylidene)methyl)pyrimidin-2-yl)piperidin-4-yl)propanoic acid | C(C)(C)(C)OC(=O)NC(CC(=O)O)C1CCN(CC1)C1=NC=CC(=N1)\C=C/1\C(NC(S1)=O)=O | C21H27N5O6S
reactant | DMF | 0.052 mmol, 1 mL, 25 mg | CN(C)C=O | C3H7NO
reactant | DIPEA | 0.209 mmol, 34.9 μL, 4 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | (3-(trifluoromethoxy)phenyl)methanamine | 0.052 mmol, 7.85 μL, 1 equiv. | FC(OC=1C=C(C=CC1)CN)(F)F | C8H8F3NO
reactant | HBTU | 0.079 mmol, 29.8 mg, 1.5 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
product | (Z)-tert-butyl (1-(1-(4-((2,4-dioxothiazolidin-5-ylidene)methyl)pyrimidin-2-yl)piperidin-4-yl)-3-oxo-3-((3-(trifluoromethoxy)benzyl)amino)propyl)carbamate | 20 mg, 58.7% | O=C1S\C(\C(N1)=O)=C/C1=NC(=NC=C1)N1CCC(CC1)C(CC(NCC1=CC(=CC=C1)OC(F)(F)F)=O)NC(OC(C)(C)C)=O | C29H33F3N6O6S
